* source 21-12
X_U1         $D_HI N14888 N14396 $G_DPWR $G_DGND NAN2
X_U2         N14846 N14835 N14403 $G_DPWR $G_DGND NAN2
X_U3         N14396 N14403 N14484 $G_DPWR $G_DGND NAN2
X_U4A         M_UN0001 N14484 N15044 M_UN0002 N14979 M_UN0003 $G_DPWR $G_DGND
+  7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6         N14612 N14696 N14670 $G_DPWR $G_DGND NAN2
X_U7A         M_UN0004 N14670 N15044 M_UN0005 N15040 M_UN0006 $G_DPWR $G_DGND
+  7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8         N14979 N14835 N14696 $G_DPWR $G_DGND NAN2
X_U5         $D_HI N14888 N14612 $G_DPWR $G_DGND NAN2
X_U9A         N14888 N14835 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_CLK         STIM(1,0) $G_DPWR $G_DGND N15044 IO_STM STIMULUS=ln
U_A         STIM(1,0) $G_DPWR $G_DGND N14888 IO_STM STIMULUS=aa
U_B         STIM(1,0) $G_DPWR $G_DGND N14888 IO_STM STIMULUS=bb
